US07897597B2
4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (100 mg, 0.3 mmol), cesium carbonate (195 mg, 0.6 mmol), 4-(chloromethyl)-2-(2-thienyl)-1,3-thiazole (71 mg, 0.33 mmol), tetrabutylammonium bromide (10 mg, 0.03 mmol), triethylamine (0.5 ml), and acetonitrile (10 mL) were combined and stirred at ambient temperature overnight. The reaction was concentrated under reduced pressure and dichloromethane was added to the residue. Undissolved solids were removed by filtration. The filtrate was concentrated under reduced pressure and subsequently purified by flash column chromatography on silica gel, eluting with a gradient of 0-5% methanol in dichloromethane. The clean fractions were combined and concentrated under reduced pressure. The solid was recrystallized from acetonitrile to yield 82 mg of 1-[4-amino-2-ethoxymethyl-7-[2-(thiophen-2-yl)thiazol-4-ylmethoxy]-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as an off white powder, mp 192.0-194.0° C.

reactant | 4-Amino-2-ethoxymethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 0.3 mmol, 100 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)O | C17H22N4O3
reactant | cesium carbonate | 0.6 mmol, 195 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(chloromethyl)-2-(2-thienyl)-1,3-thiazole | 0.33 mmol, 71 mg | ClCC=1N=C(SC1)C=1SC=CC1 | C8H6ClNS2
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrabutylammonium bromide | 0.03 mmol, 10 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-[4-amino-2-ethoxymethyl-7-[2-(thiophen-2-yl)thiazol-4-ylmethoxy]-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 82 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)OCC=2N=C(SC2)C=2SC=CC2 | C25H27N5O3S2
